US06448277B2
Intermediate 2af: 2-Amino-(4-methylphenyl)-6-methylbenzamide
A stirred solution of 2-amino-6-methylbenzoic acid (9.90 g, 65.5 mmol), triethylamine (12.4 mL, 9.00 g, 89.10 mmol) in dry dimethylformamide (300 mL) under an argon atmosphere, is treated with di-t-butyl dicarbonate (19.44 g, 89.1 mmol) and stirred at 18° C. for 18 hours. The solvent is evaporated off under reduced pressure to give a residue which is treated with aqueous citric acid solution (100 mL of 10%) and extracted with dichloromethane (2-100 mL). The combined extracts are dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the product which is purified by column chromatography on silica gel, eluent 5% methanol in dichloromethane and recrystallised from t-butylmethyl ether-hexane to give the title compound as a colourless crystalline solid.

reactant | 2-amino-6-methylbenzoic acid | 65.5 mmol, 9.90 g | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | triethylamine | 89.10 mmol, 12.4 mL, 9.00 g | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 89.1 mmol, 19.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 100 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 2-Amino-(4-methylphenyl)-6-methylbenzamide | NC1=C(C(=O)N)C(=CC=C1C1=CC=C(C=C1)C)C | C15H16N2O
